US09260427B2
Prepared using General Procedure 7. To a stirring solution of (R)-2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-4-(tert-butoxy)-4-oxobutanoic acid (308 mg, 0.75 mmol), methylamine (40 wt % in water, 174 μL, 2.25 mmol), and DIEA (415 μl, 2.25 mmol) in DMF (7.5 mL) cooled to 0° C. was added HATU (569 mg, 1.5 mmol). The reaction mixture was allowed to warm slowly and stirring continued for 18 h. The reaction mixture was poured onto ice-water and the solid was filtered. The solid was dissolved in DCM (10 mL), dried over MgSO4 and evaporated. The crude product was purified by column chromatography to afford 226 mg (71%) of tert-butyl (R)-3-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-4-(methylamino)-4-oxobutanoate. LCMS-ESI (m/z) calculated for C24H28N2O5: 424.2. found 447.1 [M+Na]+, tR=3.12 min. (Method 16).

reactant | (R)-2-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-4-(tert-butoxy)-4-oxobutanoic acid | 0.75 mmol, 308 mg | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@@H](C(=O)O)CC(=O)OC(C)(C)C | C23H25NO6
reactant | methylamine | 2.25 mmol, 174 μL | CN | CH5N
reactant | DIEA | 2.25 mmol, 415 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 1.5 mmol, 569 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
product | tert-butyl (R)-3-((((9H-fluoren-9-yl)methoxy)carbonyl)amino)-4-(methylamino)-4-oxobutanoate | 226 mg, 71% | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](CC(=O)OC(C)(C)C)C(=O)NC | C24H28N2O5
